Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / Zantac / Penicillins / levofloxacin
 
Attending: ___.
 
Chief Complaint:
Occipital scalp cellulitis and abscess
 
Major Surgical or Invasive Procedure:
I&D of occiptal scalp abscess

 
History of Present Illness:
Patient is a ___ with history of
NASH, anemia/thrombocytopenia, T2DM, multiple prior abdominal
surgeries, GERD/gastritis, dyslipidemia, HTN, asthma,
depression/anxiety, and migraines who presents with occipital
pain and swelling for the past ___.

Patient says that she began to experience mild discomfort on the
back of her head this past ___.  She didn't think much of it
as she has had self-resolved bumps on her scalp in the past.  
The
pain, however, soon intensified, reaching ___ with palpation
of an increasingly swollen/soft area on her occiput at midline. 
Patient had her husband inspect the area and he noticed a
swollen/soft raised area of skin that was slightly erythematous. 

Patient endorses throbbing discomfort at rest, worsened upon
palpation and with stretching of her scalp skin with neck
flexion.  +Feeling feverish over the past 24 hours.  Patient had
presented to an outpatient provider on ___ who told her that
she most likely had a cyst.  She was not given any antibiotics. 
Given her increasing pain not responsive to tylenol, patient
decided to present to the ___ ED for evaluation/management.    


In the ED, initial VS were: 96.9 100 107/68 16 95% RA 

Exam notable for:
Approx. 4cm diameter indurated and very tender swelling to left
occiput. Soft, boggy, and very tender swelling throughout much 
of
scalp. Mild erythema over indurated area.

Labs showed:
CBC 6.9>11.1/34.9<83 (76.7% PMNs, MCV 89)
BMP ___
HbA1C 9.4% 
VBG 7.38/37
UA notable for 30protein and few bacteria

Imaging showed:
CT Head with contrast
1. Edema and soft tissue swelling overlying the right occipital
region without focal collections identified likely representing
cellulitis.
2. No acute intracranial abnormality identified.

US Head
Limited study due to overlying hair. No drainable fluid
collection. Consider CT for further evaluation.

Consults: General surgery (no concern for EIC, no drainable 
fluid
collection)

Patient received:
___ 13:09 IVF  NS 1000 mL
___ 13:53 IV Morphine Sulfate 2 mg 
___ 17:51 IV Morphine Sulfate 2 mg 
___ 18:30 IV Ondansetron 4 mg
___ 18:31 IVF  NS 1000 mL 
___ 20:23 IV Vancomycin
___ 21:08 IVF  NS 1000 mL 
___ 23:13 PO Acetaminophen 1000 mg

Transfer VS were: 102.7 73 147/65 16 97% RA 
 
On arrival to the floor, patient recounts the history as above
using a phone interpreter.  She continues to have throbbing pain
on her scalp, markedly tender to palpation.  Review of systems 
is
otherwise notable for worsening nausea over the past four days,
associated with multiple (>5) episodes of bilious/non-bloody
emesis over the past 48hrs.  Patient has had some abdominal
distention over this time period, she mentions feeling 'gassy.' 
No BM since late ___.  PO intake has been poor,
patient has also noticed increased blood sugars.  +Flatus, 
though
not since earlier today.  Patient has a history of asthma and 
her
husband notes that she has been coughing more during the past
several days, no sputum production.  Patient denies any
subjective shortness of breath, chest pain, or palpitations. 
10-point ROS is otherwise NEGATIVE. 

Of note, patient has an unknown allergy to penicillins.  She
denies any prior respiratory reactions, mentions rash and GI
upset.  It seems that in review of ___, patient has received
cefepime/CTX/cefazolin/cefpodoxime in the past. 
 
Past Medical History:
Past Medical History:
- IDDM
- HTN
- HLD
- asthma
- migraines
- chronic back pain
- depression & anxiety, recent ED evaluation on ___ for SI

Past Surgical History:
___: L salpingo-oophorectomy complicated by sigmoid
perforation
___: Sigmoid  resection,  creation  ___ pouch,
takedown of splenic flexure and sigmoid colostomy.
___: I&D, debridement of abdominal abscess
___: Left colectomy/colostomy closure, takedown splenic
flexure, diverting ileostomy
___: Ileostomy take-down
___: Laparotomy, excision of scar and extensive
adhesiolysis.
___: Ventral hernia repair w/ vicryl mesh
___: Incisional hernia repair w/ mesh
___: Medial L knee meniscectomy
___: R knee meniscectomy
___: R total knee replacement

 
Social History:
___
Family History:
Family history is notable for cardiac disease of her sisters. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 99.6 98/62 84 18 93 ra 
GENERAL: NAD when at rest, notable discomfort upon palpation of
the scalp
HEENT: Anicteric sclera, MMM.  ~3.5cm circular area of tender
swelling at the occipital midline, inferiorly with overlying
erythema and induration.  The area is soft to touch and markedly
tender. 
NECK: No JVP elevation.
CV: RRR, S1/S2, soft systolic murmur at the LUSB, no gallops or
rubs.
PULM: Transmitted upper airway sounds, otherwise clear to
auscultation b/l, no wheeze.
GI: Distended, normoactive BS throughout, mild diffuse 
tenderness
to palpation with rebounding/guarding, no palpable HSM. 
EXTREMITIES: No cyanosis, clubbing, or edema.
PULSES: 1+ radial pulses bilaterally.
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric.

DISCHARGE PHYSICAL EXAM:
==========================
Vitals: 98.5 PO 138 / 82 77 16 91 RA 
GENERAL: NAD when at rest, notable discomfort upon palpation of
the occipital scalp  
HEENT: Anicteric sclera, MMM. Occiptal scalp with packing,
wrapped with gauze, sanguinous drainage.   
NECK: Supple, tender to palpation along R trapezius muscles and
neck. No meninigismus. 
HEART: RRR, S1/S2, soft systolic murmur at the LUSB, no gallops
or rubs.  
LUNGS: CTAB no wheezing or rales
ABDOMEN: Mildly distended, non-tender, no palpable HSM.  
EXTREMITIES: No cyanosis, clubbing, or edema.    
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric.  
Skin: Skin type IV. Ther is a healing wound on occipital scalp 
without purlent drainage or surroudning erythema. 
 
Pertinent Results:
ADMISSION LABS:
===============

___ 11:55AM BLOOD WBC-6.9 RBC-3.94 Hgb-11.1* Hct-34.9 
MCV-89 MCH-28.2 MCHC-31.8* RDW-14.8 RDWSD-48.1* Plt Ct-83*
___ 11:55AM BLOOD Neuts-76.7* Lymphs-16.1* Monos-6.5 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-5.30 AbsLymp-1.11* 
AbsMono-0.45 AbsEos-0.01* AbsBaso-0.02
___ 06:41AM BLOOD ___ PTT-52.0* ___
___ 11:55AM BLOOD Glucose-149* UreaN-24* Creat-1.4* Na-141 
K-4.7 Cl-102 HCO3-21* AnGap-18
___ 06:41AM BLOOD Albumin-3.5 Calcium-7.7* Phos-2.9 Mg-1.1*
___ 12:43PM BLOOD %HbA1c-9.4* eAG-223*
___ 12:46PM BLOOD ___ pO2-29* pCO2-37 pH-7.38 
calTCO2-23 Base XS--3

IMAGING:
========
CT Neck w/ contrast ___:
IMPRESSION: 
  
  
1. Partially visualized complex right suboccipital fluid without
complete rim enhancement, surrounded by soft tissue density, at
the site of prior subcutaneous edema.  This suggests a 
developing, though not fully formed abscess. 
2. Mildly enlarged, morphologically normal left lower posterior 
triangle/supraclavicular lymph nodes, contralateral from the
right suboccipital fluid collection, are most likely reactive,
but of uncertain etiology. 

CT HEAD W CONTRAST ___  
1. Scalp edema in the right occiput concerning for cellulitis. 
No
evidence of fluid collection or soft tissue gas.  
2. No acute intracranial abnormality. 

CT NECK W CONTRAST ___:
IMPRESSION: 
  
  
1. Partially visualized complex right suboccipital fluid without 
complete rim 
enhancement, surrounded by soft tissue density, at the site of 
prior 
subcutaneous edema.  This suggests a developing, though not 
fully formed 
abscess. 
2. Mildly enlarged, morphologically normal left lower posterior 
triangle/supraclavicular lymph nodes, contralateral from the 
right 
suboccipital fluid collection, are most likely reactive, but of 
uncertain 
etiology. 
  

CT HEAD W/ CONTRAST ___:
  
IMPRESSION: 
  
  
1. Noncontrast head CT demonstrates increased density at the 
site of the 
previously seen right suboccipital subcutaneous edema, also 
partially imaged on the concurrent contrast enhanced neck CT, 
demonstrating a probable  developing complex fluid collection 
without fully formed rim enhancement.  This is concerning for 
developing abscess. 
2. No evidence for acute intracranial abnormalities. 

CT CHEST/ABD/PELVIS W/ CONTRAST ___:
 
IMPRESSION:  
  
No CT evidence of acute infectious process within the chest, 
abdomen, or 
pelvis. 
  
Cirrhotic liver and splenomegaly unchanged from prior imaging. 
  
Stable postoperative change as above. 

DISCHARGE LABS:
=================

___ 07:15AM BLOOD WBC-3.4* RBC-2.88* Hgb-7.8* Hct-25.3* 
MCV-88 MCH-27.1 MCHC-30.8* RDW-14.6 RDWSD-47.0* Plt ___
___ 07:15AM BLOOD Neuts-65 Bands-4 ___ Monos-3* Eos-0 
Baso-1 ___ Metas-4* Myelos-0 NRBC-1* AbsNeut-2.35 
AbsLymp-0.78* AbsMono-0.10* AbsEos-0.00* AbsBaso-0.03
___ 07:15AM BLOOD ___ PTT-46.2* ___
___ 07:15AM BLOOD Glucose-133* UreaN-14 Creat-1.2* Na-142 
K-4.7 Cl-103 HCO3-27 AnGap-12
___ 07:15AM BLOOD ALT-14 AST-47* LD(LDH)-198 AlkPhos-200* 
TotBili-0.3
___ 07:15AM BLOOD calTIBC-278 Hapto-254* Ferritn-183* 
TRF-214
 
Brief Hospital Course:
Patient is a ___ with history of NASH, anemia/thrombocytopenia, 
T2DM, multiple prior abdominal surgeries, GERD/gastritis, 
dyslipidemia, HTN, asthma, depression/anxiety, and migraines who 
presented with occipital pain and swelling found to have 
occiptal scalp cellulitis which progressed to occipital scalp 
abscess.  

ACUTE ISSUES:  
==========================    
#FEVER:
#OCCIPTAL SCALP CELLULITIS:
#OCCIPTAL SCALP ABSCESS 
Patient presented with ___ of worsening occipital scalp
tenderness and swelling, found to have a 3-4cm area consistent 
with cellulitis. Patient was febrile to 102.7 in the ED, 
otherwise was without leukocytosis (neutrophilic predominant, no 
bands). Given signs of possible systemic toxicity (fever, 
borderline BP upon arrival to the floor), continued MRSA in 
addition to strep coverage with vancomycin which was then 
transitioned to cefazolin.  Additionally, due to persistent 
fever on antibiotics as well as neck pain, a CT neck, and torso 
were obtained which showed emerging abcess. Abscess developed 
with purulent discharge. ACS was consulted and she underwent 
I&D. A She did well and antibiotics were narrowed to cephalexin 
to complete ten day course from day of I&D, end date ___. 

#NAUSEA AND ABDOMINAL PAIN:   
Patient has a history of multiple intraabdominal surgeries, 
additional GERD/gastritis (taking meloxicam daily). No BM for 
over 24 hours upon admission. The patient complained of 
worsening abdominal distention with associated nausea/emesis. 
Etiologies considered were bowel obstruction vs. PUD vs. 
evolving gastritis vs. SBP with known history of NASH +/- 
cirrhosis. Of note, patient was admitted ___ with abdominal 
pain and nausea/vomiting, symptoms thought to be related to 
gastritis/PUD. RUQUS without e/o ascites. KUB without evidence 
of ileus or obstruction. The morning that the day team picked up 
the patient, her abdominal exam was significantly improved and 
she only had mild tenderness to palpation. There were no further 
issues with this. 

#ACUTE KIDNEY INJURY:  
Cr was previously ~1, though increased to 1.3 ___ iso ED 
presentation for N/V/D. Suspected prerenal iso GI losses and 
poor PO intake, exacerbated by ongoing ACE-I and furosemide 
administration. No signs of UTI on UA. s/p 3L IVF in ED. Held 
home lisinopril and furosemide. After further IVF and stopping 
vancomycin the patient's ___ resolved. 
  

CHRONIC ISSUES:  
==========================
#THROMBOCYTOPENIA: 
#NORMOCYTIC ANEMIA: 
Chronic, possible related to underlying liver disease (reported 
___, patient was previously referred to the ___ though 
was not evaluated). Hb and plts were stable and at baseline.
 
#HYPERTENSION: 
Borderline BPs upon presentation to the floor.  Held home 
lisinopril, furosemide, clonidine during admission. Upon 
discharge these medications were resumed. 
 
#Type II Diabetes Mellitus (HbA1C 9.4%)  
- Continued home lantus, held home standing short acting 
insulin, and used a sliding scale. Also held metformin and 
sitagliptin.

TRANSITIONAL ISSUES:
[ ] Patient has prior diagnosis of NASH and with evidence of 
cirrhosis on imaging. Please consider referral to hepatologist
[ ] Wound care: Occipital scalp wound- apply wound cleanser, 
gauze and sterile kerlix wrap around head. Daily dsg change.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Cetirizine 10 mg PO DAILY 
2. ClonazePAM 1 mg PO Q8H:PRN anxiety  
3. Docusate Sodium 100 mg PO BID:PRN constipation  
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Gabapentin 600 mg PO TID 
6. Montelukast 10 mg PO DAILY 
7. Simvastatin 40 mg PO QPM 
8. Venlafaxine XR 150 mg PO QAM 
9. QUEtiapine Fumarate 400 mg PO QHS 
10. Furosemide 20 mg PO DAILY 
11. GlipiZIDE 10 mg PO DAILY 
12. MetFORMIN (Glucophage) 1000 mg PO BID 
13. SITagliptin 100 mg oral DAILY 
14. Lisinopril 10 mg PO DAILY 
15. DICYCLOMine 10 mg PO QID GI cramping 
16. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
17. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB/wheeze 
18. Pantoprazole 40 mg PO Q24H 
19. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
20. meloxicam 1000 mg oral DAILY 
21. Lidocaine 5% Ointment 1 Appl TP DAILY:PRN pain 
22. Glargine 20 Units Breakfast
Humalog 10 Units Breakfast
Humalog 13 Units Lunch
Humalog 13 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
23. Hydrocortisone Cream 1% 1 Appl TP BID 
24. Doxepin HCl 50 mg PO HS 
25. Aluminum-Magnesium Hydrox.-Simethicone 30 mL PO DAILY 
26. CloNIDine 0.1 mg PO TID 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q8H  
2.  Glargine 20 Units Breakfast
Humalog 10 Units Breakfast
Humalog 13 Units Lunch
Humalog 13 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
3.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB/wheeze  
5.  Aluminum-Magnesium Hydrox.-Simethicone 30 mL PO DAILY  
6.  Cetirizine 10 mg PO DAILY  
7.  ClonazePAM 1 mg PO Q8H:PRN anxiety   
8.  CloNIDine 0.1 mg PO TID  
9.  DICYCLOMine 10 mg PO QID GI cramping  
10.  Docusate Sodium 100 mg PO BID:PRN constipation   
11.  Doxepin HCl 50 mg PO HS  
12.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
13.  Furosemide 20 mg PO DAILY  
14.  Gabapentin 600 mg PO TID  
15.  GlipiZIDE 10 mg PO DAILY  
16.  Hydrocortisone Cream 1% 1 Appl TP BID  
17.  Lidocaine 5% Ointment 1 Appl TP DAILY:PRN pain  
18.  Lisinopril 10 mg PO DAILY  
19.  MetFORMIN (Glucophage) 1000 mg PO BID  
20.  Montelukast 10 mg PO DAILY  
21.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
22.  Pantoprazole 40 mg PO Q24H  
23.  QUEtiapine Fumarate 400 mg PO QHS  
24.  Simvastatin 40 mg PO QPM  
25.  SITagliptin 100 mg oral DAILY  
26.  Venlafaxine XR 150 mg PO QAM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Occipital scalp cellulitis and abscess
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___:

You were admitted to the hospital because you were having pain 
and swelling on your scalp and you were having fevers. 

At the hospital you were found to have cellulitis and an abscess 
on your scalp. You had a procedure to drain the abscess. You 
were given antibiotics. 

When you leave the hospital please take all of your medications. 
Please follow up with your doctors. 

Qué es un ___? Un ___ es un área ___ 
acumula pus (fluido infectado). Un ___ es a menudo causado 
por bacterias, hongos u otros gérmenes que entran en una ___ 
abierta. Usted ___ un ___ en cualquier ___ 
___.

¿Cómo ___ trata un ___? 
Incisión y drenaje es un procedimiento que ___ usa para drenar el 
pus y el líquido del ___ médico hará una incisión en el 
___ para que pueda drenar. ___ pondrá ___ 
y ___ cubrirá con una venda.

¿Cuándo ___ atención inmediata? 
El área alrededor del ___ dolorosa, caliente o 
tiene manchas ___.
Usted tiene fiebre o escalofríos.
___ corazón está latiendo mas rápido de lo normal. 
___ siente desmayar o confundido.

It was a pleasure caring for you!

Sincerely, 

Your ___ Treatment Team

 
Followup Instructions:
___